US05998433
c) Synthesis of N,N-dimethyl-[6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.180 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After concentration, the crude product recrystallized from ethanol-diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.180 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C2=CC=CC=C2)=O)O1 | C23H24N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-(4-phenylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C2=CC=CC=C2)=O)O1 | InChI=1S/C23H24N2O2.ClH/c1-24(2)15-21-14-20-12-13-25(16-22(20)27-21)23(26)19-10-8-18(9-11-19)17-6-4-3-5-7-17;/h3-11,14H,12-13,15-16H2,1-2H3;1H
